US05117057
N'-t-butyl-N,N'-dibenzoylhydrazine (2 g, 0.007M) was stirred at room temperature in a two phase system of toluene-50% sodium hydroxide with 100 mg of phase transfer catalyst (tetra-n-butylammonium hydrogen sulfate). Methoxymethyl chloride (1.2 g, 0.015M) was added dropwise and the mixture was stirred 3 hours. The layers were separated and the toluene layer was washed several times with water (until the water washes were neutral). The toluene solution was dried over anhydrous magnesium sulfate and the toluene removed under vacuum to afford N-methoxymethyl-N'-t-butyl-N,N'-dibenzoylhydrazine as a thick oil.

reactant | N'-t-butyl-N,N'-dibenzoylhydrazine | 0.007M, 2 g | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C18H20N2O2
reactant | Methoxymethyl chloride | 0.015M, 1.2 g | COCCl | C2H5ClO
catalyst | tetra-n-butylammonium hydrogen sulfate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-methoxymethyl-N'-t-butyl-N,N'-dibenzoylhydrazine | COCN(N(C(C1=CC=CC=C1)=O)C(C)(C)C)C(C1=CC=CC=C1)=O | C20H24N2O3
